US08076336B2
3-tert-Butyl-5-hydroxybenzoic acid
3-Bromo-5-tert-butylbenzoic acid (5 g) was dissolved in THF (180 ml), and n-butyllithium (18.7 ml, 2.5 M in hexane) was added dropwise under argon and at −75° C., and stirred for a further 30 min. Then trimethyl borate (6.63 ml) was added dropwise and the mixture was allowed to come to RT within 1 h. Thereafter, sodium hydroxide (0.778 g), dissolved in 2 ml of water, and hydrogen peroxide (12.89 ml, 30%) were added in succession. After stirring at RT for 3 h, the mixture was left to stand over the weekend. Then water and EA were added, the mixture was adjusted to pH 3 with 1 N hydrochloric acid and the EA phase was removed. This phase was washed three times with water, dried, filtered and concentrated. The residue was purified using silica gel (120 g cartridge, n-heptane/MtB ether gradient of 0-50% in 60 min). 1.94 g of the title compound were obtained.

reactant | 3-Bromo-5-tert-butylbenzoic acid | 5 g | BrC=1C=C(C(=O)O)C=C(C1)C(C)(C)C | C11H13BrO2
reactant | n-butyllithium | 2.5 M, 18.7 ml | C(CCC)[Li]
reactant | trimethyl borate | 6.63 ml | B(OC)(OC)OC | C3H9BO3
reactant | sodium hydroxide | 0.778 g | [OH-].[Na+]
reactant | hydrogen peroxide | 12.89 ml | OO | H2O2
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | THF | 180 ml | C1CCOC1 | C4H8O
solvent | water | 2 ml | O | H2O
solvent | EA | CC(OCC)=O | C4H8O2
product | 3-tert-Butyl-5-hydroxybenzoic acid | 1.94 g | C(C)(C)(C)C=1C=C(C(=O)O)C=C(C1)O | C11H14O3
